US08030347B2
6-(2-Chloroethoxy)-2-(4-chlorophenyl)benzofuran-3(2H)-one
66.5 g (152 mmol) of 3-tert-butyldimethylsilyloxy-6-(2-chloroethoxy)-2-(4-chlorophenyl)benzofuran are dissolved in 500 ml of a 4 M hydrogen chloride solution in dioxane at RT under argon and stirred for 1.5 h. The mixture is concentrated to result in 49.2 g of a residue which is stored under argon and reacted further without purification.

reactant | 3-tert-butyldimethylsilyloxy-6-(2-chloroethoxy)-2-(4-chlorophenyl)benzofuran | 152 mmol, 66.5 g | [Si](C)(C)(C(C)(C)C)OC1=C(OC2=C1C=CC(=C2)OCCCl)C2=CC=C(C=C2)Cl | C22H26Cl2O3Si
solvent | hydrogen chloride | 4 M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(2-Chloroethoxy)-2-(4-chlorophenyl)benzofuran-3(2H)-one | 49.2 g | ClCCOC1=CC2=C(C(C(O2)C2=CC=C(C=C2)Cl)=O)C=C1 | C16H12Cl2O3
